US07501425B1
3-(3,5-Dimethoxy-phenyl)-1-ethyl-7-{2-[(pyridin-4-ylmethyl)-amino]-ethylamino}-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one
Using the general procedure above, 3-(3,5-dimethoxy-phenyl)-1-ethyl-7-methanesulfinyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one and 0.1317 g (0.871 mmol) of N-(4-picolyl)ethylenediamine were reacted. The residue was chromatographed over silica gel, eluting with ethyl acetate/ethanol/triethylamine (9:2:1 v/v/v), to give 0.0307 g (25%) of the title compound: HPLC=87% pure.

reactant | 3-(3,5-dimethoxy-phenyl)-1-ethyl-7-methanesulfinyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | COC=1C=C(C=C(C1)OC)N1C(N(C2=NC(=NC=C2C1)S(=O)C)CC)=O | C17H20N4O4S
reactant | N-(4-picolyl)ethylenediamine | 0.871 mmol, 0.1317 g | N1=CC=C(C=C1)CNCCN | C8H13N3
product | 3-(3,5-Dimethoxy-phenyl)-1-ethyl-7-{2-[(pyridin-4-ylmethyl)-amino]-ethylamino}-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.0307 g, 25% | COC=1C=C(C=C(C1)OC)N1C(N(C2=NC(=NC=C2C1)NCCNCC1=CC=NC=C1)CC)=O | C24H29N7O3
